US05804585
B. 2-ethylthieno[2,3-b]pyridine-3-sulfonyl chloride
To a solution of 2-ethylthieno[2,3-b]pyridine (0.43 g, 2.6 mmoles) in CH2Cl2 (10 ml) at -78° C. was added chlorosulfonic acid (0.9 ml, 13 mmoles). The reaction was warmed to ambient temperature over a 1 hr. period, then stirred an additional 20 hrs., followed by the addition of phosphorus oxychloride (1.7 ml, 18 mmoles) and phosphorus pentachloride (0.82 g, 4.0 mmoles). One hour later the reaction mixture was added to ice (100 ml) and extracted with EtOAc (75 ml), then washed with sat. NaHCO3 (200 ml). The organic phase was dried (MgSO4), filtered and concentrated to collect a brown oil. Flash chromatography (10% EtOAc/hexanes) provided 0.39g (56%) of the title compound as a light yellow oil.

reactant | 2-ethylthieno[2,3-b]pyridine | 2.6 mmoles, 0.43 g | C(C)C1=CC=2C(=NC=CC2)S1 | C9H9NS
reactant | chlorosulfonic acid | 13 mmoles, 0.9 ml | ClS(=O)(=O)O | ClHO3S
reactant | phosphorus oxychloride | 18 mmoles, 1.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 4.0 mmoles, 0.82 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-ethylthieno[2,3-b]pyridine-3-sulfonyl chloride | 0.39g, 56% | C(C)C1=C(C=2C(=NC=CC2)S1)S(=O)(=O)Cl | C9H8ClNO2S2
